US07560474B2
Preparation of 1-(3-pyridyl)-2-(N-(2-(3,4-dichlorophenyl)acetyl)-N-propylamino)ethanol
To a flask containing 630 mg (3.1 mmol) of DCC (dicyclohexylcarbodiimide) was added 3 ml of methylene chloride and with stirring a solution of 625 mg (3.1 mmol) of 3,4-dichlorophenyl acetic acid in 5 ml of methylene chloride was added dropwise resulting in the formation of a precipitate. The reaction mixture was stirred for 5 minutes, and to it was added 550 mg (3.05 mmol) of 1-(3-pyridyl)-2-methylaminoethanol in 6 ml of methylene chloride, it was stirred further for 1 hour at 20° C. A precipitate formed was filtered off, and the resulting solution was evaporated. The evaporated filtrate was purified by column chromatography on silica gel (silica gel 60, mobile phase: CHCl3:CH3OH=10:0.5). This yields 0.56 g (50%) of 1-(3-pyridyl)-2-(N-(2-(3,4-dichlorophenyl)acetyl)-N-propylamino)ethanol in the form the oil (molecular weight: 367.278, gross formula: C18H20N2O2Cl2).

reactant | DCC | 3.1 mmol, 630 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3,4-dichlorophenyl acetic acid | 3.1 mmol, 625 mg | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | 1-(3-pyridyl)-2-methylaminoethanol | 3.05 mmol, 550 mg | N1=CC(=CC=C1)C(CNC)O | C8H12N2O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 1-(3-pyridyl)-2-(N-(2-(3,4-dichlorophenyl)acetyl)-N-propylamino)ethanol | N1=CC(=CC=C1)C(CN(CCC)C(CC1=CC(=C(C=C1)Cl)Cl)=O)O | C18H20Cl2N2O2
